US06825208B2
To a solution of 1.6 g (10 mmol) of 6,7,8,9-Tetrahydro-5H-benzocyclohepten-5-ol in 75 mL of benzene was added p-toluene sulfonic acid (19 mg, 0.1 mmol). The mixture was refluxed overnight using Dean-Stark equipment. After removal of the solvent, the residue was repartitioned between ethyl acetate and water. The organic layers was washed with saturated sodium bicarbonate solution, water and brine and dried over sodium sulfate. Removal of the solvent gave 1.3 g (88%) of 6,7-Dihydro-5H-benzocycloheptene(compound 23,scheme 11).

reactant | 6,7,8,9-Tetrahydro-5H-benzocyclohepten-5-ol | 10 mmol, 1.6 g | C1=CC=CC2=C1CCCCC2O | C11H14O
reactant | p-toluene sulfonic acid | 0.1 mmol, 19 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 75 mL | C1=CC=CC=C1 | C6H6
product | 6,7-Dihydro-5H-benzocycloheptene | 1.3 g, 88% | C1=CC=CC2=C1C=CCCC2 | C11H12
